Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Aneurysm
 
Major Surgical or Invasive Procedure:
___ Pipeline embolization of Left ICA aneurysm

 
History of Present Illness:
She is a delightful ___ woman at home and has one
daughter.  She has a family history of a mother with an aneurysm
and a grandmother with aneurysm. An MRI approximately three 
months ago demonstrates what appears to be a right paraclinoid 
internal carotid artery/common carotid artery aneurysm.  The 
aneurysm is irregular in shape with two separate lobules to it.  
 in widest diameter.  I had a long discussion with
her husband regarding the natural history of aneurysms.  We also
discussed the potential treatment options. She presents today 
for Pipeline embolization of Left ICA aneurysm. 
 
Past Medical History:
remote history of hypertension , no meds at this time
 
Social History:
___
Family History:
Mother and grandmother with hx aneurysm
 
Physical Exam:
On discharge:
Neurologically intact, groin site c/d/i
 
Pertinent Results:
___ Pipeline embolization:
Pipeline embolization of right paraophthalmic internal carotid 
artery 
aneurysm. 

 
Brief Hospital Course:
On ___ Mrs. ___ was admitted to the neurosurgical 
service. She had a successful Pipeline embolization of her Left 
ICA aneurysm. She was extubated, right groin angiosealed and 
transferred to PACU in stale condition and neurologically 
intact. She was transferred to the ___ for further monitoring 
and care and remained stable overnight into ___.

On ___ she was doing well neurologically and was deemed fit for 
discharge to home without services. She was given instructions 
for followup, prescriptions for required medications, and all 
questions were answered prior to discharge. 
 
Medications on Admission:
Vit D ___ units q week
Brilinta 90 mg BID
ASA 81 mg qd
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q8hours Disp #*20 
Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6hours Disp #*20 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  TiCAGRELOR 90 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ICA aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
You make take a shower.
Medications
Resume your normal medications and begin new medications as 
directed.
You have been instructed by your doctor to take one ___ a 
day and Brilinta. If so, do not take any other products that 
have aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
You will have a small bandage over the site.
Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
Keep the site clean with soap and water and dry it carefully.
You may use a band-aid if you wish.

What You ___ Experience:
Mild tenderness and bruising at the puncture site (groin).
Soreness in your arms from the intravenous lines.
Mild to moderate headaches that last several days to a few 
weeks.
Fatigue is very normal
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the puncture 
site. 
Fever greater than 101.5 degrees Fahrenheit
Constipation
Blood in your stool or urine
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___